US06436866B1
The reaction between 2,3-dimethylbutadiene and methyl vinyl ketone was performed in substantially the same manner as in Example 45, except that each of the compounds synthesized in Examples 42 to 44 was individually used as the Lewis acid catalyst. The yields of the reaction product (i.e., 4-acetyl-1,2-dimethylcyclohexene) are shown in Table 1.

reactant | 2,3-dimethylbutadiene | CC(=C)C(=C)C | C6H10
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | 4-acetyl-1,2-dimethylcyclohexene | C(C)(=O)C1CC(=C(CC1)C)C | C10H16O
